US06727264B1
3-BROMOPHENYL(2S)-3-CHLORO-2-METHYLPROPYL ETHER:
Prepared by Procedure U and Scheme AK using 3-bromophenol and (2R)-1-bromo-3-chloro-2-methylpropane.

reactant | 3-bromophenol | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | (2R)-1-bromo-3-chloro-2-methylpropane | BrC[C@@H](CCl)C | C4H8BrCl
product | 3-BROMOPHENYL(2S)-3-CHLORO-2-METHYLPROPYL ETHER | ClC[C@H](COC1=CC(=CC=C1)Br)C | C10H12BrClO
